### PR TITLE
[Merged by Bors] - chore: add basic @[simp]s for `Gamma`

### PR DESCRIPTION
**Pull request by timotree3**
I don't personally have any need for these. It just seemed like these would make the API more complete.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Gamma/Basic.lean [hunk 1]
```diff
@@ -340,17 +341,24 @@ theorem Gamma_eq_integral {s : ℂ} (hs : 0 < s.re) : Gamma s = GammaIntegral s
...
 theorem Gamma_nat_eq_factorial (n : ℕ) : Gamma (n + 1) = n ! := by
   induction' n with n hn
-  · simpa using Gamma_one
+  · simp
   · rw [Gamma_add_one n.succ <| Nat.cast_ne_zero.mpr <| Nat.succ_ne_zero n]
     simp only [Nat.cast_succ, Nat.factorial_succ, Nat.cast_mul]; congr
 #align complex.Gamma_nat_eq_factorial Complex.Gamma_nat_eq_factorial
 
+@[simp]
+theorem Gamma_ofNat_eq_factorial (n : ℕ) [(n + 1).AtLeastTwo] :
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Basic.lean:356]: Does this actually work on `n  = 1`?

File: Mathlib/Analysis/SpecialFunctions/Gamma/Basic.lean [hunk 2]
```diff
@@ -340,17 +341,24 @@ theorem Gamma_eq_integral {s : ℂ} (hs : 0 < s.re) : Gamma s = GammaIntegral s
...
+    Gamma (no_index (OfNat.ofNat (n + 1) : ℂ)) = n ! := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Basic.lean:357]: I think the RHS here should have an OfNat

File: Mathlib/Analysis/SpecialFunctions/Gamma/Basic.lean (hunk 1 above)
Comment (timotree3) [reply Mathlib/Analysis/SpecialFunctions/Gamma/Basic.lean:356]: Yep. Want me to add this right below as a sort of test?
```lean
example : Gamma 2 = 1! := by simp
```

File: Mathlib/Analysis/SpecialFunctions/Gamma/Basic.lean (hunk 2 above)
Comment (timotree3) [reply Mathlib/Analysis/SpecialFunctions/Gamma/Basic.lean:357]: The RHS is `(Nat.cast (n !) : ℂ)`. You're suggesting `OfNat.ofNat (n !)` instead? Then I get an error
```text
failed to synthesize instance
  OfNat ℂ (n !)
```
because there is no instance asserting `(n !).AtLeastTwo`

Comment (fpvandoorn) [reply Mathlib/Analysis/SpecialFunctions/Gamma/Basic.lean:357]: I think the worry is that `simp` might simplify to a raw numeral. But if I simplify `Gamma 7` using this `simp`-lemma, I get `((OfNat.ofNat 6)! : ℂ)`, as desired.

**Review by fpvandoorn — COMMENTED** [review]
LGTM

bors merge
